US06919331B2
A mixture of 3-[2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acrylonitrile (100 mg, 0.234 mmol) and 10% Pd-C (10 mg) in THF (2 mL) and methanol (25 mL) was rocked in a Parr shaker under a hydrogen atmosphere (50 psi) for 15 hrs. The catalyst was removed by filtration and the filtrate purified by flash chromatography (eluent hexane:ethyl acetate 1:1) to afford 3-[2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-propionitrile (74 mg, 74%) as a white solid:

reactant | 3-[2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acrylonitrile | 0.234 mmol, 100 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1C=CC#N)=O | C26H29N5O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd-C | 10 mg | [Pd] | Pd
product | 3-[2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-propionitrile | 74 mg, 74% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1CCC#N)=O | C26H31N5O
